US07196102B2
Step 3) 1-(1-Methyl-1H-indol-4-yl)-ethanol:
The title compound was prepared by the same procedure for 1-quinolin-4-yl-ethanol from 1-methyl-1H-indole-4-carbaldehyde (2.8 g, 17.6 mmol), 3 M methyl magnesium iodide solution in diethyl ether (10 mL, 30 mmol, Aldrich) and anhydrous tetrahydrofuran (20 mL). The crude title compound obtained in form as yellow oil in 97% yield (3.0 g, 17.1 mmol).

reactant | 1-quinolin-4-yl-ethanol | N1=CC=C(C2=CC=CC=C12)C(C)O | C11H11NO
reactant | 1-methyl-1H-indole-4-carbaldehyde | 17.6 mmol, 2.8 g | CN1C=CC=2C(=CC=CC12)C=O | C10H9NO
reactant | methyl magnesium iodide | 3 M | C[Mg]I
reactant | diethyl ether | 30 mmol, 10 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-(1-Methyl-1H-indol-4-yl)-ethanol | CN1C=CC2=C(C=CC=C12)C(C)O | C11H13NO
